US04873237
In a manner analogous to Example 28 steps a)→d) 2-bromoacetyl-6-methylpyridine (11.4 g) was reacted with 2-chlorobenzimidazole (8.2 g) to give 1-[2-(6-methylpyrid-2-yl)-2-oxoethyl]-2-chlorobenzimidazole (8.4 g). This wasreacted with thiourea, then NH4OH to give 1-[2-(6methylpyrid-2-yl)-2-oxoethyl]-2-mercaptobenzimidazole (6.9 g); which compound was reduced with NaBH4 to give 1-[2-hydroxy-2-(6-methylpyrid-2-yl]-2-mercaptobenzimidazole (5.0 g.) Treatment of this with polyphosphoric acid gave the title compound (2.1 g.) m.p. 79°-81° C.

reactant | 2-bromoacetyl-6-methylpyridine | 11.4 g | BrCC(=O)C1=NC(=CC=C1)C | C8H8BrNO
reactant | 2-chlorobenzimidazole | 8.2 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
product | 1-[2-(6-methylpyrid-2-yl)-2-oxoethyl]-2-chlorobenzimidazole | 8.4 g | CC1=CC=CC(=N1)C(CN1C(=NC2=C1C=CC=C2)Cl)=O | C15H12ClN3O
